* Z:\mnt\design.r\spice\examples\4276A.asc
Laux N031 0 8.02µ
R18 N031 N030 5.9K
R19 N030 0 1.96K
Rsense N019 0 30m
C7 N004 N009 100p
Lpri N009 N004 26µ
Lsec N005 N010 1.284µ
M1 N010 N014 0 0 PSMN2R430MLD
C4 0 N027 220p
C3 0 N028 3.3n
C5 N024 N023 1µ
M3 N009 N018 N019 N019 BSZ900N20NS3
C6 N005 0 47µ x2
L2 OUT N005 180n
C8 OUT 0 47µ
R1 OUT 0 0.72
Ltp 0 N024 785µ
C9 N015 N025 2.2n
Lts 0 N025 785µ
R3 N015 0 10K
D1 0 N015 RB068L100
R4 N012 N015 15
Q3 0 N012 N014 0 2N3906
Q4 OUT N012 N014 0 2N3904
R9 N002 N016 8.2
C10 N013 0 10n
M4 N002 N013 N003 N003 BSC265N10LSF
D2 N001 N002 MURS120 N=2
C12 N003 0 10µ
L4 N003 N004 10µ
C13 N004 0 2.2µ
R5 0 N017 7.5K
R6 N006 N004 20
Q2 N007 N011 N006 0 2SA1579
C14 N008 0 10µ
L3 N007 N008 100µ
D3 0 N007 1N5817
R8 N020 0 35.7
C11 N021 0 .01µ
R10 N026 0 51K
VPSE IN 0 PWL(0 0 10m 7 160m 7 170m 5 325m 5 330m 8 360m 8 370m 6 400m 6 401m 17 415m 17 416m 6 420m 6 421m 17 425m 17 426m 6 430m 6 431m 17 435m 17 436m 6 450m 6 451m 57)
XU1 0 0 N020 NC_01 N029 N008 MP_02 MP_03 MP_04 N022 N021 N017 N027 N030 N026 0 N019 N023 MP_05 N018 MP_06 MP_07 N011 N004 N003 N013 MP_08 N016 LT4276A
R2 N029 0 10K
C15 0 N010 1n
C2 N016 0 .1µ
Rline N001 IN 6.25
C16 N001 0 1µ
R11 N022 0 107K
R7 N028 N027 20K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran  485m
K1 Lpri Lsec Laux 0.985
* 5V @ 7A
K2 Ltp Lts 0.9994
* Diode Bridge
* Fault logic not modeled.
.lib LT4276A.sub
.backanno
.end
